Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
pneumococcal vaccine / fluconazole
 
Attending: ___.
 
Chief Complaint:
Diarrhea, C.diff
 
Major Surgical or Invasive Procedure:
Flexible sigmoidoscopy ___

 
History of Present Illness:
___ with PMH of UC on budesonide presenting with diarrhea since
___, found to have c. diff. 

The patient has a diagnosis of ulcerative colitis, and developed
a UC flare at the beginning of ___.

She was given the Pneumovax vaccine on ___.  She was
seen by her PCP on ___ after developing left arm
cellulitis. She was prescribed a 10 day supply of keflex, which
finished on ___. Diarrhea worsened ___ night.  She was
originally having diarrhea 10 times a day for the last month
since she is in the middle of a UC flare.  Now she reports
diarrhea 20 times per day.  She further reports decreased fluid
intake, abdominal cramping, which is worse with bowel movements. 

Also endorses bloody bowel movements.

Regarding her ulcerative colitis history, the patient is seen by
the ___ department at ___.   Her ulcerative colitis
was diagnosed approximately ___ year ago.  She had a diarrhea 
flare
___, and then in ___ when she was diagnosed
with UC.  She had another flare ___, which was treated
with prednisone.  She was originally on mesalamine daily for
treatment of her UC. However, she developed neck stiffness, and
did not tolerate the medication well.  

In ___, she started having increased bowel movements.  She
was originally on hydrocortisone enemas for 2 weeks.  That did
not help, so that is why she was transitioned to budesonide this
past ___. Her GI doctor intends to start her on
Entyvio for her ulcerative colitis, which is why she got the
pneumonia vaccine initially.

Vital signs in the ED were notable for heart rate of 105.  Blood
pressures were stable.

Labs notable for a white blood cell count 12.2, hemoglobin 11. 
Lactate 0.8.  Chem-7 within normal limits.

The patient was given 1 L normal saline, and 125 mg of oral
vancomycin.

On arrival to the floor, patient reports that she is feeling a
little bit better after the IV fluids.  She reports that she has
not been able to tolerate much p.o. over the past month 
secondary
to her UC flare.  However, over the past several days, she is
barely been able to eat or drink anything at all secondary to
worsening abdominal pain when she eats.  Reports fevers when she
originally was diagnosed with cellulitis, but they have subsided
since initiation of antibiotics.

Denies urinary symptoms, chest pain, shortness of breath.

 
Past Medical History:
Ulcerative colitis 
Anxiety
Recurrent vulvovaginal candidiasis
 
Social History:
___
Family History:
Notable for bipolar disorder in brother, and hypertension in
father.

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
VS: 98.1PO, BP 107/69, HR 69, RR 16, 97% RA.
GENERAL: NAD
HEENT: AT/NC, anicteric sclera, MMM
NECK: supple, no LAD
CV: RRR, S1/S2, no murmurs, gallops, or rubs
PULM: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles
GI: Mild tenderness to palpation diffusely in the abdomen.
EXTREMITIES: no cyanosis, clubbing, or edema
PULSES: 2+ radial pulses bilaterally
NEURO: Alert, moving all 4 extremities with purpose, face
symmetric

DISCHARGE PHYSICAL EXAM:
========================
VITALS: T 97.7F, HR 73, BP 106/68, RR 16, 98% on RA.
GENERAL: sitting up in bed, NAD
HEENT: AT/NC, anicteric sclera, MMM
CV: RRR, S1/S2, no murmurs, gallops, or rubs
PULM: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles
GI: soft, ND, NT
EXTREMITIES: no cyanosis, clubbing, or edema
PULSES: 2+ radial pulses bilaterally
NEURO: Alert, moving all 4 extremities with purpose, face
symmetric

 
Pertinent Results:
ADMISSION LABS:
===============
___ 08:38PM BLOOD WBC-12.2* RBC-3.87* Hgb-11.0* Hct-35.2 
MCV-91 MCH-28.4 MCHC-31.3* RDW-12.5 RDWSD-41.2 Plt ___
___ 08:38PM BLOOD Neuts-71.1* Lymphs-18.2* Monos-8.0 
Eos-2.0 Baso-0.4 Im ___ AbsNeut-8.68* AbsLymp-2.22 
AbsMono-0.98* AbsEos-0.25 AbsBaso-0.05
___ 08:38PM BLOOD Glucose-88 UreaN-8 Creat-0.5 Na-140 K-3.9 
Cl-101 HCO3-24 AnGap-15
___ 08:38PM BLOOD ALT-8 AST-14 AlkPhos-67 TotBili-0.2
___ 08:38PM BLOOD Lipase-19
___ 08:45PM BLOOD Lactate-0.8

PERTINENT LABS/MICRO/IMAGING:
=============================
___ 07:10AM BLOOD CRP-32.8*

SED RATE BY MODIFIED          22  H               < OR = 20 mm/h
___                                        

___ 08:22AM BLOOD HBsAg-NEG HBsAb-POS HBcAb-NEG

FLEX SIG ___:
Findings: diffuse, continuous erythema, friability, and contact 
bleeding from rectum to sigmoid colon. ___ score: 2. 
Biopsies pending.

DISCHARGE LABS:
===============
___ 06:12AM BLOOD WBC-10.0 RBC-3.59* Hgb-10.5* Hct-32.8* 
MCV-91 MCH-29.2 MCHC-32.0 RDW-12.7 RDWSD-42.3 Plt ___
___ 06:12AM BLOOD Glucose-94 UreaN-5* Creat-0.5 Na-143 
K-4.6 Cl-106 HCO3-26 AnGap-11
___ 06:12AM BLOOD Calcium-9.5 Phos-4.0 Mg-1.9
 
Brief Hospital Course:
PATIENT SUMMARY:
================
This is a ___ female with a past medical history of 
ulcerative colitis on budesonide and hydrocortisone enemas, who 
is presenting with worsening diarrhea in the setting of a 
presumed UC flare, found to also have C. difficile. Flex sig 
showed changes consistent with ___ 2 ulcerative 
proctosigmoiditis. She was started on prednisone, was briefly on 
IV solumedrol, and then switched back to prednisone on 
discharge.

ACUTE ISSUES:
=============
#C. difficile:
#Abdominal pain:
Patient reports 20 medium-volume bowel movements per day up from 
10 bowel movements a day during her ulcerative colitis flare, 
accompanied by abdominal pain. History notable for recent 
antibiotic use (Keflex) for left upper extremity cellulitis 
after vaccine administration. Found to be C.diff positive and 
started on PO vancomycin. No history of c. diff, but sent to 
hospital because she could not tolerate PO due to 
nausea/diarrhea. She also endorsed having lightheadedness and 
palpitations concerning for hypovolemia, and in that setting 
received IV fluids. The IV fluids were stopped once the patient 
was able to tolerate PO. She has clinically improved and is 
reporting a few BMs a day that are somewhat formed, and is no 
longer having abdominal pain. She will continue PO vancomycin 
125mg q6h for a total of 14-day course to be completed on ___.

#Ulcerative colitis:
Patient with history of ulcerative colitis, in middle of flare 
treated with budesonide and hydrocortisone enemas. She was 
unable to tolerate mesalamine in the past. Previous flares were 
treated with prednisone, hydrocortisone enemas, and budesonide, 
without much success. Flex sig done on ___ showed "diffuse, 
continuous erythema, friability, and contact bleeding from 
rectum to sigmoid colon. ___ Score 2." In that setting, she was 
started on prednisone 40mg daily, but then patient had explosive 
bloody diarrheal episode and in that setting was switched to IV 
solumedrol 20mg IV q8h for 2 days. She was discharged on 
prednisone 40mg daily, which she will need to take for at least 
___ weeks and then start a taper.

#Acute-on-chronic ___ vulvovaginitis:
Patient describes vaginal discomfort this morning which she 
recognizes as a yeast infection, irritation but no discharge. 
She gets frequent yeast infections that are timed with menstrual 
periods. ___ have been exacerbated in setting of receiving 
steroids. Patient describes adverse reactions to both topical 
and oral -azoles. Pharmacy recommends vaginal nystatin, however 
not on formulary or available at local pharmacies. Found a 
compound pharmacy that will make nystatin vaginal suppositories 
___ that patient will pick 
up on discharge.

CHRONIC ISSUES:
===============
#Anxiety:
Continued home citalopram 10 mg daily.

TRANSITIONAL ISSUES:
====================
[] PO vancomycin 125mg q6h for a total of 14-day course to be 
completed on ___.
[] Started on prednisone 40mg daily for at least ___ weeks. 
Outpatient GI will determine when to start taper.
[] Not discharged on any prophylaxis (PPI, PJP, etc.) - can 
start as outpatient if prolonged steroid course and deemed 
appropriate.
[] Given 8-day prescription for trazodone to help with 
steroid-induced insomnia. Re-assess outpatient.

#CODE: Full (presumed)
#CONTACT: ___ (boyfriend) ___

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Citalopram 10 mg PO DAILY 
2. Budesonide 9 mg PO DAILY 

 
Discharge Medications:
1.  PredniSONE 40 mg PO DAILY 
RX *prednisone 20 mg 2 tablet(s) by mouth daily Disp #*28 Tablet 
Refills:*0 
2.  TraZODone 25 mg PO QHS:PRN insomnia 
RX *trazodone 50 mg 0.5 (One half) tablet(s) by mouth at bedtime 
Disp #*4 Tablet Refills:*0 
3.  Vancomycin Oral Liquid ___ mg PO QID 
RX *vancomycin 125 mg 1 capsule(s) by mouth four times a day 
Disp #*41 Capsule Refills:*0 
4.  Citalopram 10 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY:
-C.difficile infection
-Ulcerative colitis

SECONDARY:
-Vulvovaginal candidiasis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you at ___.

WHY WAS I ADMITTED TO THE HOSPITAL?
You were admitted to the hospital because you were found to have 
an infection in your gut (C.diff) during an Ulcerative Colitis 
flare, and as a result you were having a lot of diarrhea and 
were not able to eat much.

WHAT HAPPENED WHILE I WAS IN THE HOSPITAL?
-You were given IV fluids because you were dehydrated and not 
able to eat much.
-You were started on an antibiotic (vancomycin) to treat your 
C.diff infection. You will continue to take this at home.
-You had a flexible sigmoidoscopy on ___ to get a better look 
at the distal part of your colon. It showed that you are 
currently in a UC flare.
-You were started on oral steroids (prednisone), which was then 
switched to IV steroids (solumedrol). You will be discharged on 
oral steroids, which you will take for a few weeks.
-You were prescribed nystatin vaginal suppositories that you 
will pick up from the outside pharmacy.

WHAT SHOULD I DO WHEN I LEAVE THE HOSPITAL?
-Continue to take all of your medications as prescribed.
-Please attend all ___ clinic appointments.
-If you would like to follow up with our ___ clinic here at 
___, you can call ___.
-For help with sleep while on steroids, try to use melatonin 
(which you can get over-the-counter). If that does not work, 
then try the trazodone.
-Please look out for the following warning signs that your UC is 
getting worse - if you experience any of these, please call your 
gastroenterologist:
--bowel movements > 6x/day
--increased blood in your bowel movements
--inability to tolerate food.

We wish you all the best,

Your ___ Care Team
 
Followup Instructions:
___